US20010037025A1
3-[5-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hex-2-ylidenemethyl]-benzoic Acid
A mixture of 3-[5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hex-2-ylidenemethyl]-benzoic acid methyl ester and 3-[5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hex-2-ylidenemethyl]-benzoic acid ethyl ester (390 mg) and aqueous potassium hydroxide (1 mL of 6M) in methanol (5 mL) was heated at reflux for 1 h. Dilute hydrochloric acid was added and a precipitate formed. The aqueous solvent was removed and the residue triturated with water. Recrystallization from methanol gave the title compound (40 mg).

reactant | 3-[5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hex-2-ylidenemethyl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=C1C2CC2(CC1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)=O | C30H36O2
reactant | 3-[5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hex-2-ylidenemethyl]-benzoic acid ethyl ester | 390 mg | C(C)OC(C1=CC(=CC=C1)C=C1C2CC2(CC1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)=O | C31H38O2
reactant | potassium hydroxide | 6M, 1 mL | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 3-[5-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-bicyclo[3.1.0]hex-2-ylidenemethyl]-benzoic Acid | 40 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C12CCC(C2C1)=CC=1C=C(C(=O)O)C=CC1 | C29H34O2
